US07655666B2
A solution of N-[3-(acetyl-methanesulfonyl-amino)-2,4-dioxo-7-trifluoromethyl-1,2,3,4-tetrahydro-quinazolin-6-ylmethyl]-acetamide (1.8 g, 4.13 mmol) in 2M aq HCl (5.2 mL) was stirred at 80° C. for 2 d. 2M hydrochloric acid (1 mL) was added every half day. Subsequently the solvent was evaporated and the light yellow residue was purified by ion-exchange resin (DOWEX 50*2-100, MeOH): the crude product was dissolved in MeOH, and mixed with a suspension of DOWEX in MeOH and the mixture was stirred at r.t. for 2 h. The resin was then filtered and washed with MeOH (this MeOH fraction was discarded). The resin was suspended in a solution of ammonia in MeOH (7M, 300 mL), stirred for 2 h, filtered and the filtrate was collected. The resin was treated two more times with a solution of ammonia in MeOH as described above and the filtrates were collected. The combined solvent fractions were evaporated to give N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (1.12 g, 3.18 mmol, 77%) as a yellow solid, 1H-NMR (DMSO-d6, 400 MHz) 3.14 ppm (s, 3H, SO2—CH3); LC-MS rt=0.523 mn; MS: m/z 352.9 [M+H]+ Column: SunFireC18, 4.6*50 mn, 3.5 um; Positive MS Water/Acetonitrile 95:5 to 5:95 in 5 min, Flow: 1.5 mL/min

reactant | N-[3-(acetyl-methanesulfonyl-amino)-2,4-dioxo-7-trifluoromethyl-1,2,3,4-tetrahydro-quinazolin-6-ylmethyl]-acetamide | 4.13 mmol, 1.8 g | C(C)(=O)N(N1C(NC2=CC(=C(C=C2C1=O)CNC(C)=O)C(F)(F)F)=O)S(=O)(=O)C | C15H15F3N4O6S
solvent | HCl | 2M, 5.2 mL | Cl | ClH
solvent | hydrochloric acid | 2M, 1 mL | Cl | ClH
product | N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 3.18 mmol, 1.12 g, 77% | NCC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C11H11F3N4O4S
